US07449467B2
Methyl (1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylate
To a 1.00 M solution of lithium hexamethyldisilazide in tetrahydrofuran (34.8 mL, 34.8 mmol) under N2 at −78° C. was added a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate (4.0 g, 16 mmol) in tetrahydrofuran (20 mL). The resulting brown solution was stirred at −78° C. for 30 min before adding a solution of (3R)-3-iodotetrahydrofuran (3.75 g, 17.4 mmol) in THF (3 mL). The mixture was stirred for 10 min at −78° C. then kept in a freezer reading at −25° C. overnight. The reaction was quenched with saturated ammonium chloride, extracted with ether three times. The combined extracts were dried (MgSO4), filtered, concentrated and purified by flash column chromatography (EtOAc/Hexane) to provide the desired product (1.6 g, 31%). MS calculated for C16H25NO5: (M+H) 312.2; found 312.2.

reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]cyclopent-2-ene-1-carboxylate | 16 mmol, 4.0 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@H](C1)C(=O)OC | C12H19NO4
reactant | (3R)-3-iodotetrahydrofuran | 17.4 mmol, 3.75 g | I[C@H]1COCC1 | C4H7IO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 34.8 mmol, 34.8 mL | O1CCCC1 | C4H8O
product | Methyl (1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-[(3R)-tetrahydrofuran-3-yl]cyclopent-2-ene-1-carboxylate | 1.6 g, 31% | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)[C@@H]1COCC1 | C16H25NO5
